US05969140
To a suspension of 1-(2-chloro-4-pyridyl)-3-carboxy-6,7-diethoxynaphthalene in tetrahydrofuran (50 ml) is added dropwise a solution of 70% sodium aluminum bis(2-methoxyethoxy) hydride (70% toluene solution, 29.4 ml) in tetrahydrofuran (50 ml) at a temperature below 5° C. under nitrogen atmosphere, and the mixture is reacted at the same temperature for one hour. After the reaction is complete, to the mixture is added methanol (12 ml), and further thereto is added a 6.25 M aqueous sodium hydroxide solution (48 ml), and the mixture is stirred at 50° C. for one hour. The tetrahydrofuran layer is separated from the mixture, and the aqueous solution is extracted with methylene chloride, and the methylene chloride layer is separated, and combined with the tetrahydrofuran layer, then concentrated under reduced pressure. The resultant is extracted again with methylene chloride, washed, dried, and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (solvent; chloroform:ethyl acetate=4:1), and crystallized from ether to give 1-(2-chloro-4-pyridyl)-3-hydroxymethyl-6,7-diethoxynaphthalene (3.94 g).

reactant | 1-(2-chloro-4-pyridyl)-3-carboxy-6,7-diethoxynaphthalene | ClC1=NC=CC(=C1)C1=CC(=CC2=CC(=C(C=C12)OCC)OCC)C(=O)O | C20H18ClNO4
reactant | methanol | 12 ml | CO | CH4O
reactant | sodium hydroxide | 6.25 M, 48 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-(2-chloro-4-pyridyl)-3-hydroxymethyl-6,7-diethoxynaphthalene | 3.94 g | ClC1=NC=CC(=C1)C1=CC(=CC2=CC(=C(C=C12)OCC)OCC)CO | C20H20ClNO3
